### PR TITLE
`schedule_corres`

### PR DESCRIPTION
**Pull request by michaelmcinerney**
If everyone is happy with the (input) abbreviation `schedule_switch_thread_branch`, then I could use it for the `cur_sc_active` work, and use `schedule_switch_thread_branch_active_sc_tcb_at_cur_thread` in `schedule_cur_sc_active`.

`corres_fail'` should probably be moved to `Corres_UL.thy`. `corres_fail` there can be strengthen, too. So I could do that separately in another PR if people would like

### CODE REVIEW

**Comment by mktnk3** [comment]
> If everyone is happy with the (input) abbreviation `schedule_switch_thread_branch`, then I could use it for the `cur_sc_active` work, and use `schedule_switch_thread_branch_active_sc_tcb_at_cur_thread` in `schedule_cur_sc_active`.

Yes, I am happy with that. Looks like a handy thing to have.

File: proof/refine/ARM/Schedule_R.thy [hunk 1]
```diff
@@ -4862,136 +4869,438 @@ lemma refillBudgetCheck_corres:
...
+  apply (rule corres_if_split; fastforce?)
+   apply (clarsimp simp: sc_relation_def active_sc_def)
+  apply (rule corres_split'[rotated 2, OF gets_sp getConsumedTime_sp])
+   apply corressimp
+  apply clarsimp
+  apply (rename_tac consumed)
+  apply (rule_tac Q="\<lambda>_ s. sc_at (cur_sc s) s \<and> csc = cur_sc s"
+              and Q'="\<lambda>_ s'. sc_at' (ksCurSc s') s' \<and> csc = ksCurSc s'"
+              and r'=dc
+               in corres_split'[rotated])
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:4931]: tiny nitpick: I prefer
```suggestion
  apply (rule_tac Q="\<lambda>_ s. sc_at (cur_sc s) s \<and> csc = cur_sc s"
              and Q'="\<lambda>_ s'. sc_at' (ksCurSc s') s' \<and> csc = ksCurSc s'"
              and r'=dc
         in corres_split'[rotated])
```

File: proof/refine/ARM/Schedule_R.thy [hunk 2]
```diff
@@ -4862,136 +4869,438 @@ lemma refillBudgetCheck_corres:
...
+     apply (clarsimp simp: updateSchedContext_def)
+     apply (rule corres_symb_exec_r[rotated, OF get_sc_sp'])
+       apply wpsimp
+      apply wpsimp
+     apply (rename_tac sc')
+     apply (prop_tac "(\<lambda>sc. sc\<lparr>sc_consumed := sc_consumed sc + consumed\<rparr>)
+                      = sc_consumed_update (\<lambda>c. c + consumed)")
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:4938]: Nothing to do with this PR, but it's a bit disturbing that the machinery needs this manually added.

File: proof/refine/ARM/Schedule_R.thy [hunk 3]
```diff
@@ -4862,136 +4869,438 @@ lemma refillBudgetCheck_corres:
...
+  apply (rule hoare_when_cases, simp)
+  apply (rule hoare_seq_ext_skip, wpsimp)+
+  apply (wpsimp wp: threadSet_wp)
+  apply (fastforce simp: obj_at_simps isSchedulable_bool_def pred_map_simps opt_map_def
+                         isScActive_def
+                  split: option.splits)
+  done
+
+lemma cur_sc_tcb_sc_at_cur_sc:
+  "\<lbrakk>valid_objs s; cur_sc_tcb s\<rbrakk> \<Longrightarrow> sc_at (cur_sc s) s"
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:5085]: This is nice and general, should we move it to Invariants_H?

**Review by corlewis — APPROVED** [review]
Great work pulling all of this together!

File: proof/refine/ARM/Schedule_R.thy (hunk 1 above)
Comment (corlewis) [reply proof/refine/ARM/Schedule_R.thy:4931]: Depending on what you think of this, there were a couple of other similar `rule_tacs`. Let me know if I should mark them as well.

File: proof/refine/ARM/Schedule_R.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Schedule_R.thy:4938]: Indeed

File: proof/refine/ARM/Schedule_R.thy (hunk 3 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Schedule_R.thy:5085]: Sure. Moved

Comment (michaelmcinerney) [reply proof/refine/ARM/Schedule_R.thy:5085]: Well, let's move it to Invariants_AI
